US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (5.26 g, 23.7 mmol), 2-(ethoxycarbonylmethoxy) benzaldehyde (9.10 g, 47.3 mmol), p-toluenesulfonic acid (0.2 g) and xylenes (100 ml) was refluxed for 18 hours with the azeotropic removal of water. The solvent was removed in vacuo, and the residue was treated with ethanol and evaporated to dryness. The residue was partitioned between chloroform and 10% aqueous K2 CO3, the layers were separated and the aqueous layer was extracted with chloroform (100 ml). The organic layers were combined, and concentrated to dryness. The residue was preloaded on silica gel and then was purified by column chromatography on silica gel eluting with hexanes (100%) to 20% ether/hexane to afford 3.74 g (38%) of 1-cyclopentyl-3-ethyl-6-[2-(ethoxycarbonylmethoxy)phenyl]pyrazolo [3,4-d]pyrimidin-4-one, m.p. 116°-117° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 23.7 mmol, 5.26 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 2-(ethoxycarbonylmethoxy) benzaldehyde | 47.3 mmol, 9.10 g | C(C)OC(=O)COC1=C(C=O)C=CC=C1 | C11H12O4
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 1-cyclopentyl-3-ethyl-6-[2-(ethoxycarbonylmethoxy)phenyl]pyrazolo [3,4-d]pyrimidin-4-one | 3.74 g, 38% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=CC=C2)OCC(=O)OCC)CC | C22H26N4O4
